US06790848B2
To a solution of 0.35 g (0.92 mmole) 4-(3-bromo-1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester in 10 mL benzene was added 0.106 g (1.1 mmole) sodium t-butoxide and 0.19 g (1.1 mmole) benzenesulfonyl chloride. The reaction mixture was stirred at room temperature for 16 hrs. The mixture was washed with 2 mL water, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/hexane to provide 0.42 g of 4-(1-benzenesulfonyl-3-bromo-1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester, m.p. 188-189°.

reactant | 4-(3-bromo-1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.92 mmole, 0.35 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=CNC2=CC=C1)Br | C17H22BrN3O2
reactant | sodium t-butoxide | 1.1 mmole, 0.106 g | CC(C)([O-])C.[Na+]
reactant | benzenesulfonyl chloride | 1.1 mmole, 0.19 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | 4-(1-benzenesulfonyl-3-bromo-1H-indol-4-yl)-piperazine-1-carboxylic acid tert-butyl ester | 0.42 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C2C(=CN(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)Br | C23H26BrN3O4S
